US05025025
Methanol (4136 mL) is added dropwise over about 3 hours to a mixture of 2054 g of 5-carbomethoxy-oct-7-enenitrile, 1286 g of sodium borohydride and 20.5 L of 1,2-dimethoxyethane heated at 75°. The reaction mixture is heated at 95° for 31/2 hours, stirred at room temperature overnight, and cooled to 8° C. in an ice bath. Water (21.0 L) is added slowly, the mixture is again stirred for 11/2 hours at room temperature, and then extracted with ethyl acetate (2×20 L). The combined extract is washed with brine, dried over sodium sulfate and evaporated to dryness at 65-70°/3 mm Hg. The residue is distilled to yield 6-hydroxy-5-(2-propenyl)-hexanenitrile, b.p. 113-116°/0.8 mm Hg.

reactant | Methanol | 4136 mL | CO | CH4O
reactant | 5-carbomethoxy-oct-7-enenitrile | 2054 g | C(=O)(OC)C(CCCC#N)CC=C | C10H15NO2
reactant | sodium borohydride | 1286 g | [BH4-].[Na+]
reactant | 1,2-dimethoxyethane | 20.5 L | COCCOC | C4H10O2
solvent | Water | 21.0 L | O | H2O
product | 6-hydroxy-5-(2-propenyl)-hexanenitrile | OCC(CCCC#N)CC=C | C9H15NO
